US09402853B2
5 mg/kg Fluasterone:
The mice were anesthetized with Isoflurane, and then were given an intramuscular injection of 0.1 mL solution of ketamine (50 mg/kg), xylazine (10 mg/kg) and atropine (0.1 mg/kg). Approximately 10 minutes after the i.m. injection (after the mice could not turn over when placed on their backs), the mice were treated with 10 μL of a 12.5 mg/mL fluasterone/carbitol solution to give a dose of 5 mg/kg. The mice were anesthetized and on their backs for approximately 30 minutes after application of fluasterone/carbitol solution. One hour after the application of fluasterone/carbitol solution, 2 μg of TPA dissolved in 0.2 mL of acetone was applied to the shaved area on the back of each mouse.

reactant | Isoflurane | C(C(F)(F)F)(OC(F)F)Cl | C3H2ClF5O
reactant | ketamine | CNC1(CCCCC1=O)C=2C=CC=CC2Cl | C13H16ClNO
reactant | xylazine | CC=1C=CC=C(C1NC2=NCCCS2)C | C12H16N2S
reactant | atropine | CN1[C@@H]2CC[C@H]1C[C@H](C2)OC(=O)C(CO)C=3C=CC=CC3 | C17H23NO3
reactant | fluasterone carbitol | C[C@]12CCCCC1=CC[C@@H]3[C@@H]2CC[C@]4([C@H]3C[C@H](C4=O)F)C.CCOCCOCCO
solvent | acetone | 0.2 mL | CC(=O)C | C3H6O
product | Fluasterone | C[C@]12CCCCC1=CC[C@@H]3[C@@H]2CC[C@]4([C@H]3C[C@H](C4=O)F)C | C19H27FO
